US07371748B2
6-(4-methoxyphenyl)-[1,4]-dioxepan-6-ol (VIII)
Magnesium (1.27 g, 0.053 mol), dried in an oven for 1 hr at 75° C., was stirred with THF (125 mL) in a 500 mL three-necked flask at reflux. A crystal of iodine was added followed by a solution of 4-methoxybromobenzene in THF (50 mL), added dropwise over 15 min. After the addition of 10 mL of the solution the reaction initiated. After complete addition of the solution, the reaction mixture was heated at reflux for 2 hrs. The resulting grey solution was cooled to 0° C. and a solution of 1,4-dioxepan-6-one (prepared as described in U.S. Pat. No. 4,410,354) (5.08 g, 0.044 mol) in THF (25 mL) was added dropwise. The reaction mixture was stirred at room temperature overnight then evaporated. The residue was acidified to pH=1 with 1N HCl and extracted with ether (2×250 mL). The ether extracts were washed with water, dried (MgSO4), filtered and concentrated to give a sticky brown solid (9.45 g). This was purified by column chromatography on silica gel eluting with ethyl acetate-hexanes. The relevant fractions were concentrated to give the desired product (6.21 g, 63%).

reactant | Magnesium | 0.053 mol, 1.27 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 4-methoxybromobenzene | COC1=CC=C(C=C1)Br | C7H7BrO
reactant | 1,4-dioxepan-6-one | O1CCOCC(C1)=O | C5H8O3
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 6-(4-methoxyphenyl)-[1,4]-dioxepan-6-ol | 9.45 g | COC1=CC=C(C=C1)C1(COCCOC1)O | C12H16O4
